US04319913
The procedure of Example 1 was employed utilizing N-(4-methylphenyl)-N-benzylamine and isopropyl phosphonic dichloride to yield 1-isopropyl-2-(4-methylphenyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (5.4 g, 32% yield) as white crystals having a melting point of 135°-137° C. and the following analysis:

reactant | N-(4-methylphenyl)-N-benzylamine | CC1=CC=C(C=C1)NCC1=CC=CC=C1 | C14H15N
reactant | isopropyl phosphonic dichloride | C(C)(C)P(=O)(Cl)Cl | C3H7Cl2OP
product | 1-isopropyl-2-(4-methylphenyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 5.4 g, 32% yield | C(C)(C)P1(N(CC2=C1C=CC=C2)C2=CC=C(C=C2)C)=O | C17H20NOP
